US07863314B2
A. 3-{5-Amino-4-[3-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-benzoyl]-pyrazol-1-yl}-N-cyclopropyl-4-methyl-benzamide
To a stirred solution of 3-[5-amino-4-(3-hydroxy-benzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methylbenzamide (75 mg, 0.2 mmol) and 4-chloromethyl-2,2-dimethyl-[1,3]dioxolane (36 mg, 0.24 mmol) were dissolved in DMF (4 ml) was added K2CO3 and the mixture stirred at 150° C. for 2 h in microwave oven. The solvent was removed, residue was dissolved in EtOAc, washed by water, brine, dried over Na2SO4, and concentrated. The residue was purified by column chromatography (EtOAc:Hex =3:1) and the product was obtained as a colorless oil (18 mg, 18%). HPLC (4 minute gradient) tR 2.57 min; MS m/z 491.11 [M+H]+.

reactant | 3-[5-amino-4-(3-hydroxy-benzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methylbenzamide | 0.2 mmol, 75 mg | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)O)=O | C21H20N4O3
reactant | 4-chloromethyl-2,2-dimethyl-[1,3]dioxolane | 0.24 mmol, 36 mg | ClCC1OC(OC1)(C)C | C6H11ClO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 3-{5-Amino-4-[3-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-benzoyl]-pyrazol-1-yl}-N-cyclopropyl-4-methyl-benzamide | 18 mg, 18% | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)OCC1OC(OC1)(C)C)=O | C27H30N4O5
